US08957078B2
DIEA (332.7 mg, 448.4 μL, 2.574 mmol), 1,4-dibromobutane (555.8 mg, 307.4 μL, 2.574 mmol) was added to a solution of methyl 2-[(4-amino-3-methyl-isothiazol-5-yl)carbamoyl]benzoate (150 mg, 0.5149 mmol) in DMF (4 mL) and the mixture was stirred at 130° C. for 40 min in a microwave. The reaction mixture was concentrated in vacuo to yield 2-(3-methyl-4-(pyrrolidin-1-yl)isothiazol-5-yl)isoindoline-1,3-dione that was used in next step without further purification. MS (ES+) 314.1.

reactant | DIEA | 2.574 mmol, 448.4 μL, 332.7 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,4-dibromobutane | 2.574 mmol, 307.4 μL, 555.8 mg | BrCCCCBr | C4H8Br2
reactant | methyl 2-[(4-amino-3-methyl-isothiazol-5-yl)carbamoyl]benzoate | 0.5149 mmol, 150 mg | NC=1C(=NSC1NC(=O)C1=C(C(=O)OC)C=CC=C1)C | C13H13N3O3S
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(3-methyl-4-(pyrrolidin-1-yl)isothiazol-5-yl)isoindoline-1,3-dione | CC1=NSC(=C1N1CCCC1)N1C(C2=CC=CC=C2C1=O)=O | C16H15N3O2S
